US07772270B2
Compound No. 52: 1-(4-Methanesulfonylbenzenesulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid hydroxyamide
200 mg (0.55 mmol) of 1-(4-methanesulfonylbenzenesulfonyl)octahydrocyclopenta-[b]pyrrole-2-carboxylic acid were dissolved in 10 ml of DMF, after which 0.60 mmol of ethyl chloroformate, 1.22 mmol of N-ethylmorpholine and 1.67 mmol of trimethylsilylhydroxylamine were added. After the mixture had been heated at 80° C. for 4 h, the solvent was removed under reduced pressure and the crude product was purified using chromatographic methods.

reactant | 1-(4-methanesulfonylbenzenesulfonyl)octahydrocyclopenta-[b]pyrrole-2-carboxylic acid | 0.55 mmol, 200 mg | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2 | C15H19NO6S2
reactant | ethyl chloroformate | 0.60 mmol | ClC(=O)OCC | C3H5ClO2
reactant | N-ethylmorpholine | 1.22 mmol | C(C)N1CCOCC1 | C6H13NO
reactant | trimethylsilylhydroxylamine | 1.67 mmol | C[Si](C)(C)NO | C3H11NOSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(4-Methanesulfonylbenzenesulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid hydroxyamide | ONC(=O)C1CC2C(N1S(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)CCC2 | C15H20N2O6S2
